US07842685B2
A solution of (2S,4R)-1-(tert-butoxycarbonyl)-4-hydroxypyrrolidine-2-carboxylic acid (162.1 mg, 0.701 mmol) in DMF (4.0 mL) was slowly added to a suspension of sodium hydride (60% w/w in mineral oil) (58 mg, 1.45 mmol) in DMF (4.0 mL), and the resulting mixture was heated at 95° C. for 5 min. 2-(4-Fluorophenyl)-5-(1-phenylcyclopropyl)-thiazolo[5,4-b]pyridine (75.3 mg, 0.217 mmol) was then added, and the resulting solution was heated at 95° C. for 18 h. The reaction mixture was subsequently cooled to 25° C. and diluted with EtOAc (5 mL). Excess NaH was quenched with water (5 mL), and the resulting mixture was diluted with 0.1N aq. HCl (40 mL) and extracted with EtOAc. The combined extracts were sequentially washed with water (50 mL) and brine (50 mL), dried over sodium sulfate, filtered, and concentrated in vacuo to provide (2S,4R)-1-(tert-butoxycarbonyl)-4-(4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenoxy)pyrrolidine-2-carboxylic acid as a yellow solid. MS (ESI) m/z: Calculated: 557.2; Observed: 557.8 (M++1).

reactant | (2S,4R)-1-(tert-butoxycarbonyl)-4-hydroxypyrrolidine-2-carboxylic acid | 0.701 mmol, 162.1 mg | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O)C(=O)O | C10H17NO5
reactant | sodium hydride | 1.45 mmol, 58 mg | [H-].[Na+]
reactant | 2-(4-Fluorophenyl)-5-(1-phenylcyclopropyl)-thiazolo[5,4-b]pyridine | 0.217 mmol, 75.3 mg | FC1=CC=C(C=C1)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C21H15FN2S
solvent | DMF | 4.0 mL | CN(C)C=O | C3H7NO
solvent | DMF | 4.0 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
product | (2S,4R)-1-(tert-butoxycarbonyl)-4-(4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)phenoxy)pyrrolidine-2-carboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)OC1=CC=C(C=C1)C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1)C(=O)O | C31H31N3O5S
